US07670591B2
2-[6-(Methylamino)pyridin-3-yl]-1,3-benzoxazol-6-ol
5-(6-Methoxy-1,3-benzoxazol-2-yl)-N-methylpyridin-2-amine (50 mg, 0.20 mmol) was dissolved in CH2Cl2 (10 mL) and made acidic with 2M HCl in diethylether. The solvent was removed in vacuo and hydrogen bromide (48% aq., 2 mL) was added. The reaction was run in a microwave reactor at 120° C. for 15 minutes. The mixture was then made basic with sodium bicarbonate and extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried (MgSO4), filtered and evaporated in vacuo. The crude product was purified by preparative HPLC, to give the title compound (11 mg) as a white solid. 1H NMR δ ppm 9.95 (br. s, 1H) 8.72 (d, 1H) 7.99 (dd, 1H) 7.46 (d, 1 H) 7.28 (d, 1 H) 7.03 (d, 1H) 6.79 (dd, 1H) 6.58 (d, 1H) 2.85 (d, 3H); MS m/z (M+H) 242, (M−H) 240.

reactant | 5-(6-Methoxy-1,3-benzoxazol-2-yl)-N-methylpyridin-2-amine | 0.20 mmol, 50 mg | COC1=CC2=C(N=C(O2)C=2C=CC(=NC2)NC)C=C1 | C14H13N3O2
reactant | HCl | 2M | Cl | ClH
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | diethylether | C(C)OCC | C4H10O
product | 2-[6-(Methylamino)pyridin-3-yl]-1,3-benzoxazol-6-ol | 11 mg | CNC1=CC=C(C=N1)C=1OC2=C(N1)C=CC(=C2)O | C13H11N3O2
